US07365065B2
A solution of ethyl 2-bromomethylthiazole-4-carboxylate (4.25 g, 17 mmol) in THF (50 ml) was added to a solution of methylamine in THF (2M, 30 ml, 60 mmol) drop-wise while cooling to −10° C. The mixture was allowed to warm to room temperature and stirred for a further 30 min. The mixture was diluted with EtOAc and washed with 0.3N potassium hydrogen sulphate solution and brine. The organic phase was dried and reduced to yield ethyl 2-(methylaminomethyl)thiazole-4-carboxylate (3.06 g, 70%) as an orange oil which was used without further purification.

reactant | ethyl 2-bromomethylthiazole-4-carboxylate | 17 mmol, 4.25 g | BrCC=1SC=C(N1)C(=O)OCC | C7H8BrNO2S
reactant | methylamine | CN | CH5N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 60 mmol, 2M, 30 ml | C1CCOC1 | C4H8O
product | ethyl 2-(methylaminomethyl)thiazole-4-carboxylate | 3.06 g, 70% | CNCC=1SC=C(N1)C(=O)OCC | C8H12N2O2S
